US07323475B2
a) 4-(Pyridin-4-ylsulfanyl)-phthalonitrile
A mixture of 4-nitro-phthalonitrile (17.28 g), pyridine-4-thiol (10.68 g) and potassium carbonate (25.17 g) in N,N-dimethyl-formamide (160 ml) was heated to 85 C and stirred for 3 h. After cooling, the reaction mixture was filtered through a pad of celite and rinsed with ethyl acetate. Filtrate was concentrated in vacuo and the residue was purified by silica gel chromatography (eluting with 15-30% of ethyl acetate in methylene chloride) to give the title compound 13.29 g. 1H NMR (200 MHz, CDCl3) δ 8.59 (d, J=6.2 Hz, 2H), 7.68 (m, 3H), 7.24 (d, J=6.3 Hz, 2H).

reactant | 4-nitro-phthalonitrile | 17.28 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | pyridine-4-thiol | 10.68 g | N1=CC=C(C=C1)S | C5H5NS
reactant | potassium carbonate | 25.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl-formamide | 160 ml | CN(C=O)C | C3H7NO
product | 4-(Pyridin-4-ylsulfanyl)-phthalonitrile | 13.29 g | N1=CC=C(C=C1)SC=1C=C(C(C#N)=CC1)C#N | C13H7N3S
